US05128448
To a solution of trans-4-(1,1-dimethylethyl)cyclohexanecarboxaldehyde (200 mg, 1.19 mmol) in abs. EtOH (5.4 mL) at room temperature was added triethyl phosphonoacetate (96% pure, 0.389 mL, 1.96 mmol). The reaction mixture was warmed to 40° C. and a solution of sodium ethoxide (prepared from 41 mg of Na in 1.49 mL of abs. EtOH, 1.78 mmol) was added dropwise. The reaction mixture was stirred at 40° C. for 1.6 h and was quenched by the addition of HOAc/ether (1:3) to pH 6 followed by few drops of sat. NaHCO3. The excess EtOH was removed under reduced pressure and the residue was partitioned between ethyl ether (150 mL) and H2O (50 mL). The aqueous layer was extracted with ether (2×50 mL). The combined ether layers were washed with brine (75 mL), dried over MgSO4 and concentrated to give crude product (300 mg). Purification by flash chromatography eluting with 2 % EtOAc/hexane yielded trans-(E)-3-[4-(1,1-dimethylethyl)cyclohexyl]-2-propenoic acid ethyl ester (239 mg, 1.00 mmol) in 84% yield.

reactant | trans-4-(1,1-dimethylethyl)cyclohexanecarboxaldehyde | 1.19 mmol, 200 mg | CC(C)(C)[C@@H]1CC[C@H](CC1)C=O | C11H20O
reactant | sodium ethoxide | 1.78 mmol, 1.49 mL, 41 mg | [O-]CC.[Na+]
reactant | EtOH | 5.4 mL | CCO | C2H6O
product | trans-(E)-3-[4-(1,1-dimethylethyl)cyclohexyl]-2-propenoic acid ethyl ester | 1.00 mmol, 239 mg, 84% yield | C(C)OC(\C=C\[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C15H26O2
